US08084448B2
A. 1-tert-Butoxycarbonylaminocyclopropanecarboxylic Acid
To a solution of 1-aminocyclopropanecarboxylic acid (5.0 g, 50 mmol) in 80 mL dioxane/water (1:1) is added Boc2O (11.9 g, 54 mmol) and Na2CO3 (10.5 g, 99 mmol) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue is dissolved in EtOAc. The mixture is acidified to pH 3 with 1N HCl and the organic phase is separated and dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as a solid.

reactant | 1-aminocyclopropanecarboxylic acid | 50 mmol, 5.0 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | Boc2O | 54 mmol, 11.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Na2CO3 | 99 mmol, 10.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | 80 mL | O1CCOCC1.O
product | 1-tert-Butoxycarbonylaminocyclopropanecarboxylic Acid | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
